* Z:\home\miceuz\Xaltura\laser-maze\gysteresis.asc
XU1 N004 N002 N001 0 N003 LM339
R1 N004 0 24k
R2 P001 N004 76k
V1 N001 0 5
V2 N002 0 SINE(0.2 0.03 1)
R3 N001 N003 10k
R4 N003 N004 5000k
R5 N001 P001 512k
.tran 3
.lib LM339.sub
.backanno
.end
